US08497382B2
5-Bromo-2-hydroxypyridine (1.795 g) was dissolved in methanol (60 mL), a solution of silver nitrate (1.752 g) in water (40 mL) was added and the mixture was stirred. Aqueous ammonia was added, and the precipitate was collected by filtration to give 5-bromo-2-hydroxypyridine silver salt (2.68 g). The salt (2.37 g) and 2-{[4-(chloroacetyl)-1,3-thiazol-2-yl]thio}-2-methylpropionic acid tert-butyl ester (2.364 g) obtained in Example 1 were dissolved in ethanol (50 mL), and the mixture was stirred for 46 hr with heating under reflux. The reaction mixture was filtered through celite and the solvent was evaporated. The residue was dissolved again in ethyl acetate (100 mL), and the mixture was washed successively with 0.5 mol/L aqueous hydrochloric acid and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated, and the residue was purified by column chromatography (Yamazen HI-FLASH™ COLUMN size 3 L, elution solvent: hexane/ethyl acetate=9/1-6/4) to give the title compound (247 mg).

reactant | 5-Bromo-2-hydroxypyridine | 1.795 g | BrC=1C=CC(=NC1)O | C5H4BrNO
reactant | silver nitrate | 1.752 g | [N+](=O)([O-])[O-].[Ag+]
reactant | ammonia | N | H3N
solvent | methanol | 60 mL | CO | CH4O
solvent | water | 40 mL | O | H2O
product | 5-bromo-2-hydroxypyridine silver salt | 2.68 g | [Ag].BrC=1C=CC(=NC1)O | InChI=1S/C5H4BrNO.Ag/c6-4-1-2-5(8)7-3-4;/h1-3H,(H,7,8);
